2155-04-19 06:39:00 Physician Resident Progress Note
Chief Complaint: 82 M w/ jaundice and pancreatic lesion s/p ERCP with
   stenting complicated by post-op hypoxic respiratory failure and
   hypotension.
   24 Hour Events:
 ARTERIAL LINE - START [**2155-4-18**] 07:07 PM
   started in ercp in lt anticub
 SPUTUM CULTURE - At [**2155-4-18**] 07:48 PM
 INVASIVE VENTILATION - START [**2155-4-18**] 07:49 PM
 MULTI LUMEN - START [**2155-4-18**] 10:15 PM
   - RIJ placed as patient was requiring peripheral neosynephrine
   - Continued on neo as MAP decreased when weaned off
   - On CMV all night, RSBI 118 this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2155-4-19**] 12:55 AM
   Levofloxacin - [**2155-4-19**] 12:55 AM
   Infusions:
   Phenylephrine - 0.4 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2155-4-18**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-19**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.3
   HR: 93 (88 - 97) bpm
   BP: 111/71(87) {71/48(57) - 144/83(106)} mmHg
   RR: 12 (4 - 13) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 8 (7 - 10)mmHg
   Total In:
                                                                    197 mL
                                                                    850 mL
   PO:
   TF:
   IVF:
                                                                    197 mL
                                                                    550 mL
   Blood products:
   Total out:
                                                                     94 mL
                                                                    230 mL
   Urine:
                                                                     94 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    103 mL
                                                                    620 mL
   Respiratory support
   PSV: [**8-5**]
   RSBI: 118 on CMV
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, Conjunctiva pale, sclera icteric
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished), DP
   pulses dopplerable
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  jaundiced
   Neurologic: Responds to: Noxious stimuli and to verbal cues
   Labs / Radiology
   459 K/uL
   12.1 g/dL
   108 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.6 mEq/L
   17 mg/dL
   108 mEq/L
   143 mEq/L
   36.9 %
   15.8 K/uL
        [image002.jpg]
   CA [**65**]-9 1824
   ALT 260 AST 350 AP 1422  LDH 274 Tbili 7.1
                             [**2155-4-18**]  07:12 PM
                             [**2155-4-18**]  07:33 PM
                             [**2155-4-19**]  04:11 AM
                             [**2155-4-19**]  05:11 AM
   WBC
   13.4
   15.8
   Hct
   32.7
   36.9
   Plt
   362
   459
   Cr
   0.8
   TropT
   <0.01
   TCO2
   29
   28
   Glucose
   108
   Other labs: PT / PTT / INR:13.4/25.3/1.1, CK / CKMB /
   Troponin-T:35/3/<0.01, ALT / AST:264/372, Differential-Neuts:87.0 %,
   Lymph:9.3 %, Mono:3.2 %, Eos:0.3 %, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.7 mg/dL
   Imaging: No new
   Microbiology: Sputum gram stain [**4-18**]: >25 PMNs, no microorganisms, cx
   pending
   Assessment and Plan
   82 M w/ jaundice and pancreatic lesion s/p ERCP with stenting
   complicated by post-op hypoxia.
   # Hypoxic respiratory failure: Differential include transient CHF,
   COPD, MI, aspiration pneumonia, PE. Of these would favor acute
   pulmonary edema vs aspiration.
   - CXR showing effusion on right with RLL infiltrate, am CXR pending
   - CE neg x2
   - Will hold aspirin for now given lack of EKG changes
   - Sedation with propofol, will wean today to see if RSBI improves
   - Wean to extubate, tolerated PSV for now, will decrease propofol
   #Jaundice: Likely obstructive with incr ALK, dilated bile ducts and
   pancreas lesion. Pancreatic ca high on differential.  CA- 19-9 high.
   Awaiting cytology from ERCP brushings.
   - Trend LFTs , slightly down from prior
   -F/u cytology
   - Will speak with ERCP regarding further plan of action
   # Hypotension: As hypotension followed intubation likely pre-load
   dependent either dehydrated, CHF, PE, biliary sepsis. Of note no
   significant AS on recent TTE.
   - Blood cultures, urine cultures
   - CVP monitoring ([**10-12**])
   - Wean Neo as tolerated
   - Levofloxacin/flagyl for now
   #Aifb: rate control adequate for now.
   - Hold coumadin for now (for 5 days per ERCP)
   - No ASA or NSAIDS per ERCP
   - Monitor on tele
   - Resume beta-blocker when blood pressure normalized as pt was
   requiring pressors overnight.
   ICU Care
   Nutrition:
   NPO
   Glycemic Control:  NA
   Lines:
   Arterial Line - [**2155-4-18**] 07:07 PM
   20 Gauge - [**2155-4-18**] 08:30 PM
   Multi Lumen - [**2155-4-18**] 10:15 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2155-04-19 08:50:00 Physician Attending Progress Note
Chief Complaint: 82 yo male hx afib, HTN adm w/painless jaundice/pancr
   mass. Underwent ERCP under gen. anesthesia s/p sphinct/biliary stent.
   Post-procedure dev. hypoxia and was intubated, then became hypotensive.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Since [**Hospital Unit Name 44**] admission: right IJ placed, remained on pressors (esp. when
   propofol increased). Swiched to PSV
 ARTERIAL LINE - START [**2155-4-18**] 07:07 PM
   started in ercp in lt anticub
 SPUTUM CULTURE - At [**2155-4-18**] 07:48 PM
 INVASIVE VENTILATION - START [**2155-4-18**] 07:49 PM
 MULTI LUMEN - START [**2155-4-18**] 10:15 PM
   History obtained from Medical records, ICU housestaff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2155-4-19**] 12:55 AM
   Metronidazole - [**2155-4-19**] 08:11 AM
   Infusions:
   Phenylephrine - 0.6 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2155-4-18**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-19**] 08:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.3
   HR: 101 (88 - 104) bpm
   BP: 122/72(92) {71/48(57) - 144/83(106)} mmHg
   RR: 25 (4 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 2 (1 - 10)mmHg
   Total In:
                                                                    197 mL
                                                                  1,022 mL
   PO:
   TF:
   IVF:
                                                                    197 mL
                                                                    722 mL
   Blood products:
   Total out:
                                                                     94 mL
                                                                    280 mL
   Urine:
                                                                     94 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    103 mL
                                                                    742 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 330 (86 - 330) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 118
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.47/38/113/25/3
   Ve: 8.1 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Anxious
   Eyes / Conjunctiva: slce
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: cool extremities1+ DP  pulses
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Musculoskeletal: Unable to stand
   Ext: no cyanosis or clubbing, [**2-2**]+ edema bilaterlly
   Skin:  cool, no rash
   Neurologic: Sedated but able to follow simple commands
   Labs / Radiology
   12.1 g/dL
   459 K/uL
   93 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   17 mg/dL
   109 mEq/L
   143 mEq/L
   36.9 %
   15.8 K/uL
        [image002.jpg]
                             [**2155-4-18**]  07:12 PM
                             [**2155-4-18**]  07:33 PM
                             [**2155-4-19**]  04:11 AM
                             [**2155-4-19**]  05:11 AM
   WBC
   13.4
   15.8
   Hct
   32.7
   36.9
   Plt
   362
   459
   Cr
   0.8
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   29
   28
   Glucose
   108
   93
   Other labs: PT / PTT / INR:13.4/25.3/1.1, CK / CKMB /
   Troponin-T:29/3/<0.01, ALT / AST:260/350, Alk Phos / T Bili:1422/7.1,
   Differential-Neuts:87.0 %, Lymph:9.3 %, Mono:3.2 %, Eos:0.3 %, LDH:274
   IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Microbiology: sputum GS: >25 PMN, no organisms, cx pending
   Assessment and Plan
   82 year old male s/p ERCP for pancreatic mass, post-procedure course
   complicated by acute respiratory failure requiring ventilator support,
   hypotension requiring pressor support
   1. Acute respiratory failure: effusion and possible infiltrate. On abx
   for possible aspiration
   Still requiring ventilator.
   Currently on PS support; last RSBI 118. Repeat SBT/check RSBI and
   assess for extubation.
   2. Jaundice: obstr pancreatic mass suspect malignancy. Pathology
   pending.
   3. Hypotension: Still requiring pressors to maintain BP,but  may be
   partly induced by propofol. Wean off as able
   4. Afib: rate-controlled. Off coumadin temporarily per GI recs. Off
   nadolol due to recent hypotension.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2155-4-18**] 07:07 PM
   20 Gauge - [**2155-4-18**] 08:30 PM
   Multi Lumen - [**2155-4-18**] 10:15 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2155-04-20 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2155-4-19**] 09:37 AM
 INVASIVE VENTILATION - STOP [**2155-4-19**] 12:03 PM
 ULTRASOUND - At [**2155-4-19**] 03:04 PM
   Extubated
   Pressors (neo) weaned off and on back and forth alternating w/ IVF (NS)
   boluses
   Started w/ many loose stools, sent for c diff
   Pulled cvl back 4 cm
   Started empirically on po vancomycin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2155-4-19**] 04:20 PM
   Levofloxacin - [**2155-4-19**] 10:00 PM
   Vancomycin - [**2155-4-20**] 03:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-20**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 111 (95 - 117) bpm
   BP: 98/67(73) {83/56(62) - 116/74(81)} mmHg
   RR: 19 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 12 (2 - 275)mmHg
   Total In:
                                                                  3,804 mL
                                                                  2,014 mL
   PO:
                                                                    420 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  3,084 mL
                                                                  1,984 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                    150 mL
   Urine:
                                                                    710 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,094 mL
                                                                  1,866 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 330 (330 - 330) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 0 cmH2O
   FiO2: 35%
   SpO2: 100%
   ABG: 7.46/38/119/24/3
   Ve: 7.3 L/min
   PaO2 / FiO2: 298
   Physical Examination
   Gen: in nad, speaking in full sentences.
   Skin: diffusely jaundiced, though decreased from yesterday,
   Heent: op clear; eomi, perrl, mm dry
   COR: nl s1s2,tachycardic. No m/r/g
   PUL: cta anteriorly
   ABD: soft, distended, tender diffusely w/ deep palpation, no masses
   Extrem: 2+ pitting edema, dopplerable DP bilat
   NEURO alert and oriented x 3.
   Labs / Radiology
   344 K/uL
   12.0 g/dL
   121 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.6 mEq/L
   21 mg/dL
   108 mEq/L
   139 mEq/L
   36.6 %
   13.8 K/uL
        [image002.jpg]
                             [**2155-4-18**]  07:12 PM
                             [**2155-4-18**]  07:33 PM
                             [**2155-4-19**]  04:11 AM
                             [**2155-4-19**]  05:11 AM
                             [**2155-4-19**]  10:20 AM
                             [**2155-4-19**]  08:57 PM
                             [**2155-4-20**]  05:05 AM
   WBC
   13.4
   15.8
   15.1
   13.8
   Hct
   32.7
   36.9
   35.3
   36.6
   Plt
   362
   459
   401
   344
   Cr
   0.8
   0.9
   0.9
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   29
   28
   28
   Glucose
   108
   93
   120
   121
   Other labs: PT / PTT / INR:14.1/26.2/1.2, CK / CKMB /
   Troponin-T:29/3/<0.01, ALT / AST:180/188, Alk Phos / T Bili:1071/4.9,
   Amylase / Lipase:[**3-8**], Differential-Neuts:87.0 %, Lymph:9.3 %, Mono:3.2
   %, Eos:0.3 %, LDH:188 IU/L, Ca++:6.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.0
   mg/dL
   Micro
   C diff pending
   Blood cultures pending [**4-19**] + [**2155-4-20**]
   RADS
   LENIS
   INDICATION: 82-year-old man with biliary obstruction, respiratory
   failure and
   lower extremity edema, question DVT.
   FINDINGS: [**Doctor Last Name **]-scale and Doppler son[**Name (NI) 872**] of the bilateral common
   femoral,
   superficial femoral, and popliteal veins was performed. There is normal
   flow,
   compresibility and augmentation.
   IMPRESSION: No evidence of DVT.
   Cxr [**4-19**] 9 am
   A single portable radiograph of the chest demonstrates persistent
   bilateral
   pleural effusions and bibasilar atelectasis, worse on the right than
   the left.
   The findings are similar to that seen on [**2155-4-18**]. The support lines
   are
   unchanged. No pneumothorax is detected. Cardiomediastinal contours are
   unchanged.
   Assessment and Plan
   82 M w/ jaundice and pancreatic lesion s/p ERCP with stenting
   complicated by post-op hypoxia.
   # Hypoxic respiratory failure:
   Extubated yesterday.
   CXR showing effusion on right with RLL infiltrate.  Afebrile without
   cough, inclined to consider this unlikely infection, ? aspiration
   pneumonitis.  Sats are stool good on 2.5L NC even after 5 L of NS in 36
   hrs.
   -          cont monitor O2 sats
   # Hypotension / Shock
   Required frequent boluses of NS overnight to wean and keep off
   neosynephrine. Now holding pressures well. Likely low grade sepsis in
   setting of biliary manipulation, now responding to IV antibiotics
   levofloxacin + flagyl.  Cardiogenic shock unlikely as recent TTE showed
   EF 55% without significant valvular disease.  Will continue to bolus as
   needed to maintain MAPS > 60 and urine output > 0.5 cc/kg/hour.  Urine
   output had dropped offovernight; will cont to follow.  Low BP and
   pressors might have given mild insult to kidney; will f/u w/ ua/ urine
   culture.  Will eval cortisol for absolute adrenal insufficiency (if
   cortisol is < 5).  Hold on repeat TTE as unlikely new cardiac event w/
   no CK leak or change in EKGs
   -          IVFs
   -          Neo as needed, though off since 2am.
   -          Cont antibiotics
   -          f/u cortisol
   # Loose stool
   Patient has complained of loose stool x 6 weeks.
   ? pancreatic insufficiency w/ mass vs secondary to mass effects
   (VIPoma, etc.) vs c diff.
   As for c diff, denies treatment w/ antibiotics over past 2 months; was
   started on [**4-18**] w/ levo / flagyl (IV).
   Sending for c diff; probably cause of low blood volume.
   Change to PO flagyl and hold off on further PO vancomycin for now.
   If continues to worsen w/ abdominal exam-> will get KUB and possible Ct
   abdomen.
   #Jaundice:
   Likely obstructive with incr ALK, dilated bile ducts and pancreas
   lesion, improved s/p stent w/ ERCP. Pancreatic ca high on
   differential.  CA- 19-9 high.  Awaiting cytology from ERCP brushings.
   - Trend LFTs , continuing to decline
   -F/u cytology
   #Aifb: rate control adequate for now.
   - Hold coumadin for now (for 5 days per ERCP), now day [**3-5**]
   - No ASA or NSAIDS per ERCP/GI
   - Monitor on tele
   - Resume beta-blocker when blood pressure tolerates
   # FEN
   Repleting Calcium / potassium prn
   ICU Care
   Nutrition: clears--. Advance to full today
   Glycemic Control:  none
   Lines:
   Arterial Line - [**2155-4-18**] 07:07 PM
 d/c today, cuff matches a line
   well
   20 Gauge - [**2155-4-18**] 08:30 PM
   Multi Lumen - [**2155-4-18**] 10:15 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: pantoprazole
   VAP:  extubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu

2155-04-20 11:21:00 Physician Attending Progress Note
Chief Complaint: hypotension/resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 yo male w/increasing weakness/jaundice. S/p ERCP for pancreatic
   mass. Post procedure he developed resp failure and after intubation
   became hypotensive
   24 Hour Events:
   *Extubated
   * Responded to fluids, but between boluses needed intermittant
   pressors. Currently off neo gtt since 2 am
   *Loose BM's (states for 6 wks)- sent for CDiff.
   *Re- positioned CVL
                                           History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2155-4-19**] 10:00 PM
   Vancomycin - [**2155-4-20**] 03:00 AM
   Metronidazole - [**2155-4-20**] 09:34 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-20**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36
C (96.8
   HR: 113 (95 - 117) bpm
   BP: 139/92(181) {84/60(73) - 139/103(181)} mmHg
   RR: 28 (19 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 22 range 8-12 (5 - 275)mmHg
   Total In:
                                                                  3,804 mL
                                                                  2,785 mL
   PO:
                                                                    420 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  3,084 mL
                                                                  2,755 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                    553 mL
   Urine:
                                                                    710 mL
                                                                    203 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                  3,094 mL
                                                                  2,232 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.42///24/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: both bases, though limited effort)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender: ,
   Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, , Movement: Purposeful, Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   12.0 g/dL
   344 K/uL
   121 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.6 mEq/L
   21 mg/dL
   108 mEq/L
   139 mEq/L
   36.6 %
   13.8 K/uL
        [image002.jpg]
                             [**2155-4-18**]  07:12 PM
                             [**2155-4-18**]  07:33 PM
                             [**2155-4-19**]  04:11 AM
                             [**2155-4-19**]  05:11 AM
                             [**2155-4-19**]  10:20 AM
                             [**2155-4-19**]  08:57 PM
                             [**2155-4-20**]  05:05 AM
   WBC
   13.4
   15.8
   15.1
   13.8
   Hct
   32.7
   36.9
   35.3
   36.6
   Plt
   362
   459
   401
   344
   Cr
   0.8
   0.9
   0.9
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   29
   28
   28
   Glucose
   108
   93
   120
   121
   Other labs: PT / PTT / INR:14.1/26.2/1.2, CK / CKMB /
   Troponin-T:29/3/<0.01, ALT / AST:180/188, Alk Phos / T Bili:1071/4.9,
   Amylase / Lipase:[**3-8**] (normal), Differential-Neuts:87.0 %, Lymph:9.3 %,
   Mono:3.2 %, Eos:0.3 %, Lactic Acid:1.6 mmol/L, LDH:188 IU/L, Ca++:6.9
   mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: Uosm 600
   Imaging: CXR: right> left effusion
   Microbiology: BdCx pending
   CDiff pending
   LE doppler's negative for DVT
   Assessment and Plan
   82 year old male s/p ERCP for pancreatic mass with post-procedure resp
   failure and hypotension
   1. Acute resp failure: now extubated with minimal oxygen requirement
   2. Hypotension: Required fluid resuscitation and intermittent pressors
   to maintain BP. Continue to monitor VS to see if he needs additional
   resuscitation. Hypotension has been omewhat more protracted than would
   be expected for medication-induced alone. Given timing relative to
   ERCP, could have superimposed low lying  sepsis. Continue LVQ/flagyl;
   convert to po. Cortisol level pending.
   3. Loose stools: Cdiff pending. Hold on further po vanco.
   4. Decreased uop: Cr stable. Fluid bolus as needed
   5. Afib: rate-controlled. Continue to monitor off beta blocker,
   coumadin.
   ICU Care
   Nutrition:
   Comments: advance diet
   Glycemic Control:
   Lines:
   Arterial Line - [**2155-4-18**] 07:07 PM
   20 Gauge - [**2155-4-18**] 08:30 PM
   Multi Lumen - [**2155-4-18**] 10:15 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Pt is critically ill

2155-04-21 07:44:00 Physician Resident Progress Note
Chief Complaint: 82 M w/ jaundice and pancreatic lesion s/p ERCP with
   stenting complicated by post-op hypoxic respiratory failure and
   hypotension.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2155-4-21**] 01:20 AM
   started in ercp in lt anticub
   -c. diff x 2 negative
   -continues to have loose BM, asking for immodium
   -tolerating advancing diet
   -hypotensive during the afternoon to 80s, responded to IVF
   -cortisol WNL (21)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2155-4-19**] 10:00 PM
   Vancomycin - [**2155-4-20**] 03:00 AM
   Metronidazole - [**2155-4-20**] 09:34 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-21**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 119 (99 - 127) bpm
   BP: 99/73(79) {82/35(53) - 118/89(104)} mmHg
   RR: 20 (14 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 18 (-1 - 314)mmHg
   Total In:
                                                                  3,166 mL
                                                                     58 mL
   PO:
                                                                     30 mL
   TF:
   IVF:
                                                                  3,136 mL
                                                                     58 mL
   Blood products:
   Total out:
                                                                  1,010 mL
                                                                    190 mL
   Urine:
                                                                    360 mL
                                                                    190 mL
   NG:
   Stool:
                                                                    650 mL
   Drains:
   Balance:
                                                                  2,156 mL
                                                                   -133 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.42///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   357 K/uL
   12.0 g/dL
   122 mg/dL
   1.0 mg/dL
   25 mEq/L
   4.1 mEq/L
   24 mg/dL
   108 mEq/L
   140 mEq/L
   36.4 %
   13.4 K/uL
        [image002.jpg]
   ALT 152 AST 137 AP 1000
   LDH 185 Tbili 4.3
   Alb 2.3
   Corrected calcium: 9.16
                             [**2155-4-18**]  07:12 PM
                             [**2155-4-18**]  07:33 PM
                             [**2155-4-19**]  04:11 AM
                             [**2155-4-19**]  05:11 AM
                             [**2155-4-19**]  10:20 AM
                             [**2155-4-19**]  08:57 PM
                             [**2155-4-20**]  05:05 AM
                             [**2155-4-21**]  05:51 AM
   WBC
   13.4
   15.8
   15.1
   13.8
   13.4
   Hct
   32.7
   36.9
   35.3
   36.6
   36.4
   Plt
   362
   459
   401
   344
   357
   Cr
   0.8
   0.9
   0.9
   0.9
   1.0
   TropT
   <0.01
   <0.01
   TCO2
   29
   28
   28
   Glucose
   108
   93
   120
   121
   122
   Other labs: PT / PTT / INR:15.0/29.0/1.3, CK / CKMB /
   Troponin-T:29/3/<0.01, ALT / AST:152/137, Alk Phos / T Bili:1000/4.3,
   Amylase / Lipase:[**3-8**], Differential-Neuts:87.0 %, Lymph:9.3 %, Mono:3.2
   %, Eos:0.3 %, Lactic Acid:1.6 mmol/L, Albumin:2.3 g/dL, LDH:185 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR [**4-20**]: HISTORY: Central line repositioning.  A single
   portable radiograph of the chest demonstrates persistent bilateral
   pleural effusions and bibasilar atelectasis. There has been interval
   repositioning of the right internal jugular central venous catheter.
   The catheter tip is seen at the atriocaval junction. Trachea is
   midline. No pneumothorax. Cardiomediastinal contours are unchanged.
   Microbiology: C. diff negative x2
   Urine cx: No growth
   Assessment and Plan
   82 M w/ jaundice and pancreatic lesion s/p ERCP with stenting
   complicated by post-op hypoxia.
   # Hypoxic respiratory failure: Extubated.  CXR showing effusion on
   right with RLL infiltrate.  Afebrile without cough, inclined to
   consider this unlikely infection, ? aspiration pneumonitis.  Sats had
   been stable on 2.5L NC even after aggressive volume resuscitation.
   Patient developed acute shortness of breath during round this am.  NC
   increased to 3L and patient maintained sats, but felt subjective SOB.
   - Stat CXR
   - Atrovent nebs, +/- xopenex given afib and concern for increased
   tachycardia
   - HR control as this may be exacerbating his SOB
   - Lasix x 1 as patient has rec
d volume over last 24 hours and has h/o
   diastolic failure
   - Cont monitor O2 sats
   # Hypotension / Shock: Resolving.  Required frequent boluses of NS to
   miantain BPs. Now holding pressures well. Likely low grade sepsis in
   setting of biliary manipulation, now responding to IV antibiotics
   levofloxacin + flagyl.  Cardiogenic shock unlikely as recent TTE showed
   EF 55% without significant valvular disease.  Will continue to bolus as
   needed to maintain MAPS > 60 and urine output > 0.5 cc/kg/hour.
   Cortisol wnl making absolute adrenal insufficiency unlikely.  Hold on
   repeat TTE as unlikely new cardiac event w/ no CK leak or change in
   EKGs
   - IVFs prn
   - Cont antibiotics
   # Loose stool:  Patient has complained of loose stool x 6 weeks.  ?
   pancreatic insufficiency w/ mass vs secondary to mass effects (VIPoma,
   etc.) vs c diff.   As for c diff, denies treatment w/ antibiotics over
   past 2 months; was started on [**4-18**] w/ levo / flagyl (IV).  Sending for
   c diff, negative x2, will send third; diarrhea may be cause of
   hypovolemia.
   - Changed to PO flagyl, follow up 3^rd C. diff.
   - No current abdominal pain, if develops pain on abd exam, can consider
   further imaging such as KUB and possible Ct abdomen.
   #Jaundice:  Likely obstructive with incr ALK, dilated bile ducts and
   pancreas lesion, improved s/p stent w/ ERCP. Pancreatic ca high on
   differential.  CA- 19-9 high.  Awaiting cytology from ERCP brushings.
   - Trend LFTs , continuing to decline after ERCP.
   - F/u cytology
   #Afib: Has been in RVR with rates in the 110s and 120s.  Holding BB
   given low BPs.  Patient was unable to tolerate lopressor in the past,
   is on nadolol as outpatient.
   - Trial of IV dilt for rate control to avoid non-specific beta blocker
   at this time.
   - Hold coumadin for now (for 5 days per ERCP), now day [**4-5**]
   - No ASA or NSAIDS per ERCP/GI
   - Monitor on tele
   - Resume beta-blocker when blood pressure tolerates
   # FEN
   - Repleting lytes prn
   ICU Care
   Nutrition:
   Regular diet
   Glycemic Control:  Adequate
   Lines:
   20 Gauge - [**2155-4-18**] 08:30 PM
   Multi Lumen - [**2155-4-18**] 10:15 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: NA
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2155-04-21 12:22:00 Physician Attending Progress Note
Chief Complaint: resp failure/hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 yo male with pancr mass/obstructive jaundice s/p ERCP complicated by
   resp failure/hypotension
   24 Hour Events:
   Cdiff negative 2
   Diet advanced
   Brief drop in SBP to 80's responded to 250 cc IVF
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2155-4-19**] 10:00 PM
   Vancomycin - [**2155-4-20**] 03:00 AM
   Metronidazole - [**2155-4-20**] 09:34 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Hep SQ, PPI, SSI
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-21**] 12:21 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 115 (99 - 127) bpm
   BP: 116/84(90) {97/54(66) - 117/84(104)} mmHg
   RR: 25 (14 - 27) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 20 (-1 - 20)mmHg
   Total In:
                                                                  3,159 mL
                                                                    451 mL
   PO:
                                                                     30 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  3,129 mL
                                                                     91 mL
   Blood products:
   Total out:
                                                                  1,010 mL
                                                                    360 mL
   Urine:
                                                                    360 mL
                                                                    360 mL
   NG:
   Stool:
                                                                    650 mL
   Drains:
   Balance:
                                                                  2,149 mL
                                                                     91 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) Overweight / Obese, No(t)
   Thin, No(t) Anxious, tachypneic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Abdominal: Soft
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   12.0 g/dL
   357 K/uL
   122 mg/dL
   1.0 mg/dL
   25 mEq/L
   4.1 mEq/L
   24 mg/dL
   108 mEq/L
   140 mEq/L
   36.4 %
   13.4 K/uL
        [image002.jpg]
                             [**2155-4-18**]  07:12 PM
                             [**2155-4-18**]  07:33 PM
                             [**2155-4-19**]  04:11 AM
                             [**2155-4-19**]  05:11 AM
                             [**2155-4-19**]  10:20 AM
                             [**2155-4-19**]  08:57 PM
                             [**2155-4-20**]  05:05 AM
                             [**2155-4-21**]  05:51 AM
   WBC
   13.4
   15.8
   15.1
   13.8
   13.4
   Hct
   32.7
   36.9
   35.3
   36.6
   36.4
   Plt
   362
   459
   401
   344
   357
   Cr
   0.8
   0.9
   0.9
   0.9
   1.0
   TropT
   <0.01
   <0.01
   TCO2
   29
   28
   28
   Glucose
   108
   93
   120
   121
   122
   Other labs: PT / PTT / INR:15.0/29.0/1.3, CK / CKMB /
   Troponin-T:29/3/<0.01, ALT / AST:152/137, Alk Phos / T Bili:1000/4.3,
   Amylase / Lipase:[**3-8**], Differential-Neuts:87.0 %, Lymph:9.3 %, Mono:3.2
   %, Eos:0.3 %, Lactic Acid:1.6 mmol/L, Albumin:2.3 g/dL, LDH:185 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Microbiology: [**Last Name (un) **] CX NGTD
   Cdiff
   Assessment and Plan
   82 yo male with pancr mass/obstructive jaundice s/p ERCP complicated by
   resp failure/hypotension temporarily requiring intubation.
   #Respiratory distress- abrupt onset this am
   stat pCXR, also nebs. Consider  IV lasix vs thoracent dep on CXR
   findings
   #hypotension: BP currently ok.
   Continue abx for possibie biliary sepsis +/- aspiration
   #Diarrhea: Cdiff negative x 2
   #Obstructive jaundice: f/u cytology
   #Afib: Needs more rate control. Previously developed bradycardia with
   non specific beta blocker; will trial diltiazem
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2155-4-18**] 08:30 PM
   Multi Lumen - [**2155-4-18**] 10:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2155-04-22 07:32:00 Physician Resident Progress Note
Chief Complaint: 82 M w/ jaundice and pancreatic lesion s/p ERCP with
   stenting complicated by post-op hypoxia.
   24 Hour Events:
   - Had acute onset of resp distress during rounds, CXR unchanged, given
   lasix x1 and nebs with improvement.
   - Gave 15mg IV dilt with good rate control
   - BP stable in low 100s throughout the day
   - Started to drop sats during afternoon, no subjective distress, was
   repositioned with improvement
   - Started on lopressor 12.5 mg [**Hospital1 **] with holding parameters in the
   evening for rate control
   -Had discussion with daughter and pt, informing them about the likely
   dx of pancreatic cancer and plan to follow up cytology results and with
   GI in future to discuss possibility of biopsy, if indicated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2155-4-20**] 03:00 AM
   Metronidazole - [**2155-4-21**] 09:31 PM
   Levofloxacin - [**2155-4-21**] 09:32 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2155-4-21**] 12:30 PM
   Diltiazem - [**2155-4-21**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2155-4-21**] 09:31 PM
   Other medications:
   Ipratropium prn
   Metoprolol [**12-5**] [**Hospital1 **]
   Pantoprazole
   Hep SC
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: SOB improved, no problems overnight, slept
   comfortably.  Asking to liberalize diet.  Denies pain.
   Flowsheet Data as of  [**2155-4-22**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96
   HR: 113 (95 - 127) bpm
   BP: 121/70(82) {98/49(64) - 138/87(95)} mmHg
   RR: 18 (15 - 30) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: -20 (-20 - 22)mmHg
   Total In:
                                                                    528 mL
                                                                     60 mL
   PO:
                                                                    420 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    108 mL
   Blood products:
   Total out:
                                                                  1,025 mL
                                                                    245 mL
   Urine:
                                                                  1,025 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -498 mL
                                                                   -185 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97% RA
   ABG: ///25/
   Physical Examination
   Gen: in nad, speaking in full sentences.
   Skin: diffusely jaundiced, though decreased from yesterday,
   Heent: op clear; eomi, perrl, mm dry
   COR: nl s1s2,tachycardic. No m/r/g
   PUL: cta anteriorly
   ABD: soft, distended, tender diffusely w/ deep palpation, no masses
   Extrem: 2+ pitting edema, dopplerable DP bilat
   NEURO alert and oriented x 3.
   Labs / Radiology
   384 K/uL
   11.9 g/dL
   117 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.7 mEq/L
   22 mg/dL
   107 mEq/L
   138 mEq/L
   36.0 %
   13.1 K/uL
        [image002.jpg]
                             [**2155-4-18**]  07:12 PM
                             [**2155-4-18**]  07:33 PM
                             [**2155-4-19**]  04:11 AM
                             [**2155-4-19**]  05:11 AM
                             [**2155-4-19**]  10:20 AM
                             [**2155-4-19**]  08:57 PM
                             [**2155-4-20**]  05:05 AM
                             [**2155-4-21**]  05:51 AM
                             [**2155-4-22**]  04:36 AM
   WBC
   13.4
   15.8
   15.1
   13.8
   13.4
   13.1
   Hct
   32.7
   36.9
   35.3
   36.6
   36.4
   36.0
   Plt
   362
   459
   401
   344
   357
   384
   Cr
   0.8
   0.9
   0.9
   0.9
   1.0
   1.1
   TropT
   <0.01
   <0.01
   TCO2
   29
   28
   28
   Glucose
   108
   93
   120
   121
   122
   117
   Other labs: PT / PTT / INR:15.0/29.0/1.3, CK / CKMB /
   Troponin-T:29/3/<0.01, ALT / AST:126/103, Alk Phos / T Bili:916/4.2,
   Amylase / Lipase:[**3-8**], Differential-Neuts:87.0 %, Lymph:9.3 %, Mono:3.2
   %, Eos:0.3 %, Lactic Acid:1.6 mmol/L, Albumin:2.3 g/dL, LDH:219 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Micro:  c. diff negative x 3
   Urine culture [**4-20**] negative
   Blood cultures pending, no growth to date
   Sputum OP flora.
   Assessment and Plan
   82 M w/ jaundice and pancreatic lesion s/p ERCP with stenting
   complicated by post-op hypoxia.
   # Hypoxic respiratory failure: Extubated.  CXR showing effusion on
   right with RLL infiltrate.  Afebrile without cough, inclined to
   consider this unlikely infection, ? aspiration pneumonitis. Some SOB
   yesterday, responded to BB, nebs, lasix.  Has been stable since on 2-3L
   NC
   - Atrovent nebs, +/- xopenex given afib and concern for increased
   tachycardia
   - HR control as this may be exacerbating his SOB
   - Lasix x 1 as patient has rec
d volume over last 24 hours and has h/o
   diastolic failure
   - Cont monitor O2 sats
   - fevers, no cough or sputum production, RLL infiltrate less likely pna
   rather aspiration pneumonitis/atelectasis.  No abx coverage for PNA for
   now.
   # Hypotension / Shock: Resolving.  Initially required frequent boluses
   of NS to miantain BPs. Now holding pressures well. Likely low grade
   sepsis in setting of biliary manipulation, now responding to IV
   antibiotics levofloxacin + flagyl.  Cardiogenic shock unlikely as
   recent TTE showed EF 55% without significant valvular disease.  Will
   continue to bolus as needed to maintain MAPS > 60 and urine output >
   0.5 cc/kg/hour.  Cortisol wnl making absolute adrenal insufficiency
   unlikely.  Hold on repeat TTE as unlikely new cardiac event w/ no CK
   leak or change in EKGs.
   - IVFs prn
   - Cont levaquin for 7d course.
   # Loose stool:  Patient has complained of loose stool x 6 weeks.  ?
   pancreatic insufficiency w/ mass vs secondary to mass effects (VIPoma,
   etc.) vs c diff.   As for c diff, denies treatment w/ antibiotics over
   past 2 months; was started on [**4-18**] w/ levo / flagyl (IV).  3 sets c.
   diff toxin negative.
   - d/c  po flagyl as c. diff negative x 3.
   - No current abdominal pain, if develops pain on abd exam, can consider
   further imaging such as KUB and possible Ct abdomen.
   -immodium prn diarrhea, has been tapering off today.
   #Jaundice:  Likely obstructive with incr ALK, dilated bile ducts and
   pancreas lesion, improved s/p stent w/ ERCP. Pancreatic ca high on
   differential.  CA- 19-9 high.  Awaiting cytology from ERCP brushings.
   Have discussed likely diagnosis of pancreatic cancer with pt and
   daughter.  Would plan outpatient GI f/u if bx necessary.  If cytology
   from brushings definitive would arrange outpatient heme/one f/u for
   prognosis/ tx/palliation options.
   - Trend LFTs , continuing to decline after ERCP.
   - F/u cytology
   -f/u GI recs
   #Afib: Has been in RVR with rates in the 110s and 120s.  Holding BB
   given low BPs.  Patient was unable to tolerate lopressor in the past,
   is on nadolol as outpatient.
   - Had one dose IV dilt last night with decrease in HR, has been in low
   100s
   -started BB last night, low dose 12.5 [**Hospital1 **], BP tolerated this dose, HR
   remained above 100, will increase to 12.5 TID and continue to monitor
   - Had been holding coumadin for 5 days post ERCP per GI recs, today is
   day five, will hold off today until decision made regarding any need to
   biopsy mass while in house, otherwise would restart.
   - No ASA or NSAIDS per ERCP/GI
   - Monitor on tele
   # FEN
   - Repleting lytes prn
   ICU Care
   Nutrition:
   Regular diet, have liberalized per pt request
   Glycemic Control:  Adequate
   Lines:
   20 Gauge - [**2155-4-18**] 08:30 PM
   Multi Lumen - [**2155-4-18**] 10:15 PM, will d/c today
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: NA
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to 11R today.

2155-04-22 12:18:00 Physician Attending Progress Note
Chief Complaint: resp failure, rapid afib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 yo male with pancr mass/obstructive jaundice s/p ERCP complicated by
   resp failure/hypotension temporarily requiring intubation.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2155-4-20**] 03:00 AM
   Levofloxacin - [**2155-4-21**] 09:32 PM
   Metronidazole - [**2155-4-22**] 09:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2155-4-21**] 12:30 PM
   Diltiazem - [**2155-4-21**] 02:00 PM
   Pantoprazole (Protonix) - [**2155-4-22**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2155-4-22**] 09:00 AM
   Metoprolol - [**2155-4-22**] 09:54 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-4-22**] 12:17 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (96.9
   HR: 103 (95 - 126) bpm
   BP: 108/62(74) {98/47(63) - 138/87(95)} mmHg
   RR: 18 (15 - 29) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: -20 (-20 - 22)mmHg
   Total In:
                                                                    528 mL
                                                                    280 mL
   PO:
                                                                    420 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    108 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,025 mL
                                                                    410 mL
   Urine:
                                                                  1,025 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -498 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bilat bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): all, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.9 g/dL
   384 K/uL
   117 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.7 mEq/L
   22 mg/dL
   107 mEq/L
   138 mEq/L
   36.0 %
   13.1 K/uL
        [image002.jpg]
                             [**2155-4-18**]  07:12 PM
                             [**2155-4-18**]  07:33 PM
                             [**2155-4-19**]  04:11 AM
                             [**2155-4-19**]  05:11 AM
                             [**2155-4-19**]  10:20 AM
                             [**2155-4-19**]  08:57 PM
                             [**2155-4-20**]  05:05 AM
                             [**2155-4-21**]  05:51 AM
                             [**2155-4-22**]  04:36 AM
   WBC
   13.4
   15.8
   15.1
   13.8
   13.4
   13.1
   Hct
   32.7
   36.9
   35.3
   36.6
   36.4
   36.0
   Plt
   362
   459
   401
   344
   357
   384
   Cr
   0.8
   0.9
   0.9
   0.9
   1.0
   1.1
   TropT
   <0.01
   <0.01
   TCO2
   29
   28
   28
   Glucose
   108
   93
   120
   121
   122
   117
   Other labs: PT / PTT / INR:15.0/29.0/1.3, CK / CKMB /
   Troponin-T:29/3/<0.01, ALT / AST:126/103, Alk Phos / T Bili:916/4.2,
   Amylase / Lipase:[**3-8**], Differential-Neuts:87.0 %, Lymph:9.3 %, Mono:3.2
   %, Eos:0.3 %, Lactic Acid:1.6 mmol/L, Albumin:2.3 g/dL, LDH:219 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   82 yo male with obstructive jaundice s/p ERCP complicated by resp
   failure/hypotension temporarily requiring intubation. Abd CT did not
   show pancreatic mass, though ERCP obstructing stricture suggesting
   mass. On levofloxacin s/p ERCP. Markedly elevated CA-19-9
   #Respiratory distress- improved with tx afib, lasix. Now on minimal
   oxygen supplementation.
   #Hypotension: stabilized, not requiring fluid boluses.
   #Diarrhea: Cdiff negative x 2.
   #Obstructive jaundice: cytology still pending.
   #Afib: Needs more rate control. Previously developed bradycardia with
   non specific beta blocker; will trial diltiazem
   Will discuss with pt's daughter and have conversation with pt as he is
   not aware of likely malignancy. We need to determine his goals in terms
   of aggressiveness of further workup if cytology unrevealing.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2155-4-18**] 08:30 PM
   Multi Lumen - [**2155-4-18**] 10:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Coumadin held)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor after discussion with pt and his
   daughter